US07625901B2
Step A. 2-Chloro-N-[(1R)-2-hydroxy-1-phenylethyl]acetamide
To a solution of (R)-2-phenylglycinol (10 g, 73 mmol) and triethylamine (10.2 mL, 73 mmol) in CH2Cl2 (500 mL) at 0° C. was slowly added chloroacetyl chloride (5.8 mL, 73 mmol). After 20 min, the reaction mixture was quenched with saturated aqueous NaHCO3 (150 mL) and extracted with CH2Cl2 (2×250 mL). The combined organic extracts were washed with 10% citric acid, then brine, then dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound. MS: m/z=214 (M+1).

reactant | (R)-2-phenylglycinol | 73 mmol, 10 g | C1(=CC=CC=C1)[C@@H](N)CO | C8H11NO
reactant | triethylamine | 73 mmol, 10.2 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 73 mmol, 5.8 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-[(1R)-2-hydroxy-1-phenylethyl]acetamide | ClCC(=O)N[C@@H](CO)C1=CC=CC=C1 | C10H12ClNO2
